US03975537
2-[4'-(2,3-epoxy)propoxybenzoyl]benzofuran was prepared from 12.0 g. (0.050 mol.) of 2-(4'-hydroxybenzoyl)benzofuran, 3.0 g. of sodium hydroxide and 30 ml. of epichlorohydrin as described in the procedure of Example 7.

reactant | 2-(4'-hydroxybenzoyl)benzofuran | 0.050 mol | OC1=CC=C(C(=O)C=2OC3=C(C2)C=CC=C3)C=C1 | C15H10O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | 2-[4'-(2,3-epoxy)propoxybenzoyl]benzofuran | O1C2=C(C(=O)C=3OC4=C(C3)C=CC=C4)C=CC(=C21)OCCC | C18H14O4
